US08487108B2
A benzene solution of ((1R*,2R*)-2-bromocyclohexyloxy)(tert-butyl)dimethylsilane (17.8 g, 0.061 mol), 2-benzyloxycarbonylamino-acrylic acid methyl ester (8 g, 0.037 mol), AIBN (1.22 g, 0.019 mol) was heated to reflux. After 5 minutes, n-Bu3SnH (19.8 mL, 0.074 mol) was added. The resulting mixture was then stirred at reflux for 14 hours. Solvent was removed under reduced pressure, the residue was purified by column chromatography to give methyl 2-(benzyloxycarbonylamino)-3-((1S*,2R*)-2-(tert-butyldimethylsilyloxy)cyclohexyl)propanoate (6.5 g, 24%).

reactant | ((1R*,2R*)-2-bromocyclohexyloxy)(tert-butyl)dimethylsilane | 0.061 mol, 17.8 g | Br[C@H]1[C@@H](CCCC1)O[Si](C)(C)C(C)(C)C | C12H25BrOSi
reactant | 2-benzyloxycarbonylamino-acrylic acid methyl ester | 0.037 mol, 8 g | COC(C(=C)NC(=O)OCC1=CC=CC=C1)=O | C12H13NO4
reactant | AIBN | 0.019 mol, 1.22 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | n-Bu3SnH | 0.074 mol, 19.8 mL | [SnH](CCCC)(CCCC)CCCC
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 2-(benzyloxycarbonylamino)-3-((1S*,2R*)-2-(tert-butyldimethylsilyloxy)cyclohexyl)propanoate | 6.5 g, 24% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)C[C@H]1[C@@H](CCCC1)O[Si](C)(C)C(C)(C)C | C24H39NO5Si
